US06518293B2
5-Dimethylaminomethylene-3-isopropyl-1-methyl-imidazolidine-2,4-dione
A mixture of 13.4 g of 3-isopropyl-1-methyl-imidazolidine-2,4-dione and 13.6 ml dimethylformamide dimethylacetal were heated at 100° C. over the weekend. The reaction mixture was cooled to rt and purified by flash chromatography to give 9.9 g of a golden oil. Mass spectrum (EI) m/z 211 M+.

reactant | 3-isopropyl-1-methyl-imidazolidine-2,4-dione | 13.4 g | C(C)(C)N1C(N(CC1=O)C)=O | C7H12N2O2
reactant | dimethylformamide dimethylacetal | 13.6 ml | COC(N(C)C)OC | C5H13NO2
product | 5-Dimethylaminomethylene-3-isopropyl-1-methyl-imidazolidine-2,4-dione | 9.9 g | CN(C)C=C1C(N(C(N1C)=O)C(C)C)=O | C10H17N3O2
